US06177443B1
Preparation of [4-(4-Trifluoromethylphenyl)4,5,6,7-tetrahydro-thieno[3,2-c]pyridin-5-yl]-(3-methoxyphenyl)-methanone, (compound No. 8)
4-(4-Trifluoromethylphenyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine (100 mg, 0.35 mmol) was dissolved in dichloromethane (1 mL) and diisopropylethylamine (0.5 mL) was added. To this solution m-anisoyl chloride (50 μL, 0.35 mmol) was added. The mixture was shaken overnight and evaporated to afford the title compound.

reactant | 4-(4-Trifluoromethylphenyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | 0.35 mmol, 100 mg | FC(C1=CC=C(C=C1)C1NCCC2=C1C=CS2)(F)F | C14H12F3NS
reactant | diisopropylethylamine | 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | m-anisoyl chloride | 0.35 mmol, 50 μL | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | [4-(4-Trifluoromethylphenyl)4,5,6,7-tetrahydro-thieno[3,2-c]pyridin-5-yl]-(3-methoxyphenyl)-methanone | FC(C1=CC=C(C=C1)C1N(CCC2=C1C=CS2)C(=O)C2=CC(=CC=C2)OC)(F)F | C22H18F3NO2S
